US05189042
17-Ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-20-fluoro-1-hydroxy-14-(tert-butlydimethylsiloxy)-12-[2'-(4"-(tert-butyldimethylsiloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (10 mg) in tetrahydrofuran (0.6 ml) contained in a polypropylene vial was added 40 μl of an HF-pyridine solution in tetrahydrofuran, and the mixture was stirred at room temperature. After 28 hours, the mixture was added to a saturated sodium bicarbonate solution, extracted with ethyl acetate and dried by passage through a magnesium sulfate column. Purification of the concentrate by flash chromatography on silica gel (ethyl acetate: hexane (2:1)+1% methanol) gave the title compound (6 mg).

reactant | 17-ethyl-20-fluoro-1-hydroxy-14-(tert-butlydimethylsiloxy)-12-[2'-(4"-(tert-butyldimethylsiloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 10 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O[Si](C)(C)C(C)(C)C)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C55H96FNO12Si2
reactant | polypropylene | C(C(C)[*:2])[*:1]
reactant | HF-pyridine | 40 μl | C1=CC=NC=C1.F
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 0.6 ml | O1CCCC1 | C4H8O
product | 17-Ethyl-20-fluoro-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 6 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(C(C(=C1)C)F)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H68FNO12
